US05153227
Borane-methyl sulphide complex (0.1 ml, 1 mmol) was added to a solution of (4-carboxyphenylsulphonyl)nitromethane (0.25 g, 1 mmol) in anhydrous tetrahydrofuran (5 ml) and the mixture was stirred for 2 hours. The mixture was acidified with 2M hydrochloric acid to pH 1 and extracted with ethyl acetate. The combined extracts were dried (MgSO4) and the solvent was removed by evaporation. The residue was purified by MPLC eluting with methanol/dichloromethane (1:50 v/v) to give (4-hydroxymethylphenylsulphonyl)nitromethane (0.06 g) m.p. 73°-75° C.; microanalysis, found: C, 41.6; H, 3.9; N, 5.8%; C8H9NO5S requires: C, 41.6; H, 3.9; N, 6.1%.

reactant | (4-carboxyphenylsulphonyl)nitromethane | 1 mmol, 0.25 g | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)C[N+](=O)[O-] | C8H7NO6S
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (4-hydroxymethylphenylsulphonyl)nitromethane | 0.06 g | OCC1=CC=C(C=C1)S(=O)(=O)C[N+](=O)[O-] | C8H9NO5S
